US04518596
8-(2,4-Dichlorobenzyl-thio)-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(2,4-dichlorobenzyl-thio)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 227°-229° C.) and piperazine.

reactant | 2-chloro-8-(2,4-dichlorobenzyl-thio)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCC2=C(C=C(C=C2)Cl)Cl)N2CCS(CC2)=O | C17H14Cl3N5OS2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(2,4-Dichlorobenzyl-thio)-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | ClC1=C(CSC2=NC=NC3=C2N=C(N=C3N3CCS(CC3)=O)N3CCNCC3)C=CC(=C1)Cl | C21H23Cl2N7OS2
